US07687503B2
5.6. 2-(methylamino)-2-oxoethyl 4-(5-{4-[(trifluoro-methyl)oxy]phenyl}-2-pyridyl)-1-piperazinecarboxylate
The process is performed according to the procedure described in Example 2 (step 2.4.). Starting with 0.250 g (0.61 mmol) of 2-(methylamino)-2-oxoethyl 4-(5-iodo-2-pyridyl)-1-piperazinecarboxylate, obtained in step 5.5., 0.51 g (2.44 moles) of 4-(trifluoromethoxy)-phenylboronic acid, 0.61 g (˜8 mol %) of palladium catalyst on a solid support, prepared in step 2.1. of Example 2, and 2.9 ml (7.32 mmol) of aqueous sodium carbonate solution (2.5M) suspended in 12 ml of toluene and 3 ml of ethanol, and after chromatography on silica gel, eluting with a 98/2 mixture of dichloromethane and methanol, followed by washing with diisopropyl ether, 0.092 g of product is obtained in the form of a white solid.

reactant | 2-(methylamino)-2-oxoethyl 4-(5-iodo-2-pyridyl)-1-piperazinecarboxylate | 0.61 mmol, 0.250 g | IC=1C=CC(=NC1)N1CCN(CC1)C(=O)OCC(=O)NC | C13H17IN4O3
reactant | 4-(trifluoromethoxy)-phenylboronic acid | 2.44 moles, 0.51 g | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | sodium carbonate | 7.32 mmol, 2.5M, 2.9 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | palladium | 0.61 g | [Pd] | Pd
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(methylamino)-2-oxoethyl 4-(5-{4-[(trifluoro-methyl)oxy]phenyl}-2-pyridyl)-1-piperazinecarboxylate | 0.092 g | FC(OC1=CC=C(C=C1)C=1C=CC(=NC1)N1CCN(CC1)C(=O)OCC(=O)NC)(F)F | C20H21F3N4O4
